US04083948
7-Chloro-5-(4-hydroxyphenyl)-2-methylamino-3H-1,4-benzodiazepine 4-oxide
To a saturated solution of methylamine in 600 ml of methanol in an ice bath was added 19.2 g (0.60 mole) of 6-chloro-2-chloromethyl-4-(4-hydroxyphenyl) quinazoline 3-oxide. The solution was stirred for 7 hr in an ice bath, and 10 hr at room temperature and then evaporated under reduced pressure. The residue was acidified with dilute acetic acid, stirred with ether and filtered to give 19 g of product. Recrystallization for analysis from ethyl acetate gave colorless plates, mp 278°-279° dec.

reactant | methylamine | CN | CH5N
reactant | 6-chloro-2-chloromethyl-4-(4-hydroxyphenyl) quinazoline 3-oxide | 0.60 mole, 19.2 g | ClC=1C=C2C(=[N+](C(=NC2=CC1)CCl)[O-])C1=CC=C(C=C1)O | C15H10Cl2N2O2
solvent | methanol | 600 ml | CO | CH4O
product | 7-Chloro-5-(4-hydroxyphenyl)-2-methylamino-3H-1,4-benzodiazepine 4-oxide | 19 g | ClC=1C=CC2=C(C(=[N+](CC(=N2)NC)[O-])C2=CC=C(C=C2)O)C1 | C16H14ClN3O2
